US06900357B2
Synthesis of (2S)-2-[(1S)-1-hydroxy-2-methylpropyl]hexanal (Table 1, entry 6):
A solution of freshly distilled hexanal (120 μL, 1.0 mmol) in 500 μL dimethylformamide was added slowly over the course of 24 h to a stirring suspension of isobutyraldehyde (272 μL, 3.0 mmol), L-proline (11.5 mg, 0.10 mmol) and 500 μL dimethylformamide at room temperature. After 24 h, the resulting solution was diluted with diethyl ether and washed successively with water and brine. The combined aqueous layers were back-extracted with 3 portions dichloromethane. The organic layers were combined, dried over anhydrous MgSO4, and concentrated in vacuo. Flash chromatography (7:3 pentane:diethyl ether) afforded the title compound as a clear, colorless oil in 80% yield (127 mg, 0.80 mmol), 98% ee and 96:4 anti:syn. IR (film) 3458, 2960, 2934, 2874, 2725, 1720, 1467, 1328, 1220, 1146, 1024, 991.2, 959.9, 901.1, 775.6 cm−1; 1H NMR (300 MHz, CDCl3) δ9.75 (d, 1H, J=3.3 Hz, CHO); 3.56 (dd (apparent q), 1H, J=6.0, 5.7 Hz, CHOH); 2.46 (dddd, 1H, J=8.4, 5.7, 5.7, 3.3 Hz, CHCH2); 1.99 (d, 1H, J=6.0 Hz, OH); 1.82 (m, 1H, CH(CH3)2); 1.70 (m, 1H, CHCH2); 1.58 (m, 1H, CHCH2); 1.30 (m, 4H, CH2CH2CH3); 0.97 (d, 3H, J=6.6 Hz, CH(CH3)2); 0.93 (d, 3H, J=6.6 Hz, CH(CH3)2); 0.90 (dd (apparent t), 3H, J=6.6, 6.6 Hz); 13C NMR (75 MHz, CDCl3) δ206.1, 76.7, 54.9, 31.3, 29.5, 26.7, 23.2, 20.0, 17.1, 14.2; HRMS (CI) exact mass calcd for [M+H]+ (C10H21O2) requires m/z 173.1541, found m/z 173.1540; [α]D=−15.4 (c=1.0, CHCl3). The product ratios were determined by GLC analysis of the acetal derived from 2,2-dimethylpropane-1,3-diol (obtained by the method of Yamamoto, supra) using a Bodman Chiraldex β-DM (30 m×0.25 mm) column (110° C. isotherm, 23 psi); (2S, 3S) anti isomer tr=97.8 min, (2R, 3R) anti isomer tr=102.7 min, (2R, 3S) and (2S, 3R) syn isomers tr=94.4, 96.5 min.

reactant | hexanal | 1.0 mmol, 120 μL | C(CCCCC)=O | C6H12O
reactant | isobutyraldehyde | 3.0 mmol, 272 μL | C(C(C)C)=O | C4H8O
reactant | L-proline | 0.10 mmol, 11.5 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethylformamide | 500 μL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 500 μL | CN(C=O)C | C3H7NO
product | (2S)-2-[(1S)-1-hydroxy-2-methylpropyl]hexanal | 80% yield | O[C@@H](C(C)C)[C@@H](C=O)CCCC | C10H20O2
